US06780996B2
Following the procedure used to prepare Reference Example 22, a mixture of 4-chloro-6- methoxy-7-[(1-methylpiperidin-4-yl)methoxy]quinoline-3-carbonitrile (200 mg, 0.58 mmol) and 4-(pyridin-3-yloxy)phenylamine (161.5 mg, 0.87 mmol) (Cacciola, J.; Fevig, J. M.; Stouten, P. F. W.; Alexander, R. S.; Knabb, R. M.; Wexler, R. W. Bioorg. Med. Chem. Let. 2000, 10, 1253) provides 203 mg of 6-methoxy-7-[(1-methylpiperidin-4-yl)methoxy]-4-{[4-(pyridin-3-yloxy)phenyl]amino}quinoline-3-carbonitrile, mp 182-184° C.

reactant | 4-chloro-6- methoxy-7-[(1-methylpiperidin-4-yl)methoxy]quinoline-3-carbonitrile | 0.58 mmol, 200 mg | ClC1=C(C=NC2=CC(=C(C=C12)OC)OCC1CCN(CC1)C)C#N | C18H20ClN3O2
reactant | 4-(pyridin-3-yloxy)phenylamine | 0.87 mmol, 161.5 mg | N1=CC(=CC=C1)OC1=CC=C(C=C1)N | C11H10N2O
product | 6-methoxy-7-[(1-methylpiperidin-4-yl)methoxy]-4-{[4-(pyridin-3-yloxy)phenyl]amino}quinoline-3-carbonitrile | 203 mg | COC=1C=C2C(=C(C=NC2=CC1OCC1CCN(CC1)C)C#N)NC1=CC=C(C=C1)OC=1C=NC=CC1 | C29H29N5O3
